US05510369
Hydrocinnamyl-L-Proline
Hydrocinnamic acid (1.63 g., 11 mmol) and L-proline-OMe HCl (2.19 g., 13.2 mmol) were dissolved in 110 ml. of dimethylacetamide (DMAc), followed by the addition of 2.19 g. (14.3 mmol) of HOBt and adjustment to pH 8 with N-methylmorpholine (NMM). Then EDC (3.16 g., 16.5 mmol) was added and the solution stirred for 20 hr., followed by concentration in vacuo and extractive workup with EtOAc to afford 2.97 g. of oily residue, which was purified by chromatography on silica gel to yield 2.68 g. of methyl ester. This intermediate was saponified in 100 ml. of 50:50 THF/H2O using 5.2 ml. of 2.17 N LiOH for 3 hr., to give, after acidification with dil. KHSO4, removal of the volatile solvents in vacuo, and extractive workup with EtOAc, the title compound as a colorless oil.

reactant | Hydrocinnamic acid | 11 mmol, 1.63 g | C(CCC1=CC=CC=C1)(=O)O | C9H10O2
reactant | HOBt | 14.3 mmol | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
reactant | EDC | 16.5 mmol, 3.16 g
reactant | LiOH | 2.17 N | [Li+].[OH-]
solvent | THF H2O | 5.2 ml | C1CCOC1.O
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
product | Hydrocinnamyl-L-Proline | C(CCC1=CC=CC=C1)N1[C@H](C(=O)O)CCC1 | C14H19NO2
